US07514419B2
To a stirred solution of 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy) benzaldehyde (4.1 g, 15.2 mmol, Example 28, step a) in methanol (35 mL) at 0° C. was slowly added NaBH4 (1.16 g, 30.5 mmol). The reaction mixture was stirred at room temperature for 5 h and the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (150 mL), washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (2:4) to afford 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzyl alcohol as a white solid (3.4 g, 83%, m.p.: 78-80° C.): 1H NMR (300 MHz, CDCl3): δ 7.12 (s, 2 H), 6.80 (d, J=3.3 Hz, 2 H), 6.67 (d, J=9.0 Hz, 1 H), 6.36 (dd, J=3.0, 8.7 Hz, 1 H), 4.68 (s, 2 H), 3.80 (s, 3 H), 3.35-3.25 (m, 1 H), 2.16 (s, 6 H), 1.19 (d, J=7.2 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; mobile phase=ethyl acetate-hexanes (2:4); Rf=0.5.

reactant | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy) benzaldehyde | CC=1C=C(C=O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C19H22O3
reactant | NaBH4 | 30.5 mmol, 1.16 g | [BH4-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzyl alcohol | 3.4 g, 83% | CC=1C=C(CO)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C19H24O3
